US06225311B1
To a 0° solution of D-serine methyl ester hydrochloride (0.62 g, 4 mmol) in 5 mL of dichloromethane was added triethylamine (1.67 mL,12 mmol) followed by a dichloromethane (6 mL) solution of 4-(2-butynyloxy)-benzenesufonyl chloride (0.98 g, 4 mmol). The reaction was stirred at room temperature overnight and then the mixture was poured into water. The organic layer was washed with 2N citric acid, water and brine, dried over sodium sulfate, filtered and concentrated to give 1.16 g of methyl 2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-3-hydroxypropanoate. Yield˜89.2%. mp 72-74° C. Electrospray Mass Spec 328.2 (M+H)+.

reactant | D-serine methyl ester hydrochloride | 4 mmol, 0.62 g | Cl.COC([C@H](N)CO)=O
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-butynyloxy)-benzenesufonyl chloride | 4 mmol, 0.98 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | methyl 2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)-3-hydroxypropanoate | 1.16 g, Yield˜89.2% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)OC)CO | C14H17NO6S
